US08017792B2
3,4-Dihydro-2H-pyran (1.5 mL, 16.5 mmol) and p-toluenesulfonic acid monohydrate (104 mg, 0.549 mmol) were added to a chloroform (40 mL) solution of 2,3,4,6-tetra-O-acetyl-5-thio-D-glucopyranose (2.0 g, 5.49 mmol) and stirred at room temperature for one hour. The reaction mixture was added with a saturated sodium bicarbonate aqueous solution and extracted with chloroform, and after the organic layer was washed with brine, it was dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to obtain pale yellow amorphous tetrahydro-2H-pyran-2-yl 2,3,4,6-tetra-O-acetyl-5-thio-D-glucopyranose (2.56 g).

reactant | 3,4-Dihydro-2H-pyran | 16.5 mmol, 1.5 mL | O1CCCC=C1 | C5H8O
reactant | 2,3,4,6-tetra-O-acetyl-5-thio-D-glucopyranose | 5.49 mmol, 2.0 g | C(C)(=O)O[C@H]1C(O)S[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C14H20O9S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | p-toluenesulfonic acid monohydrate | 0.549 mmol, 104 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | tetrahydro-2H-pyran-2-yl 2,3,4,6-tetra-O-acetyl-5-thio-D-glucopyranose | 2.56 g | O1C(CCCC1)C1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](S1)COC(C)=O | C19H28O10S
